US07838704B2
N-(trans-3-chloro-2-propenyl)-N-methyl-1-naphthalene-methanamine
30 g (0.175 mol) N-methyl-1-naphthalene methanamine, 100 ml MEK and 29 g (0.210 mol, 1.2 eq.) potassium carbonate are introduced into a reactor, the mixture is heated to 50° C. and 22.4 g (0.202 mol, 1.1 eq.) of (1E)-1,3-dichloro-1-propene added dropwise.

reactant | N-methyl-1-naphthalene methanamine | 0.175 mol, 30 g | CNCC1=CC=CC2=CC=CC=C12 | C12H13N
reactant | potassium carbonate | 0.210 mol, 29 g, 1.2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | (1E)-1,3-dichloro-1-propene | 0.202 mol, 22.4 g, 1.1 eq. | Cl\C=C\CCl | C3H4Cl2
solvent | MEK | 100 ml | CCC(=O)C | C4H8O
product | N-(trans-3-chloro-2-propenyl)-N-methyl-1-naphthalene-methanamine | Cl/C=C/CN(CC1=CC=CC2=CC=CC=C12)C | C15H16ClN
